US07220862B2
Benzyl (R)-1-(methoxycarbonyl)-2-(2,3-dihydro-2-oxo-1H-benzo[d]imidazol-6-yl)ethylcarbamate
To a dilute solution of (R)-2-benzyloxycarbonylamino-3-(3,4-diamino-phenyl)-propionic acid methyl ester (600 mg, 1.44 mmol) in tetrahydrofuran (125 mL) was added triethylamine (320 mg, 3.17 mmol) followed by 1,1′-carbonyldiimidazole (280 mg, 1.73 mmol). The reaction mixture was stirred at room temperature for 16 h and then filtered to remove solid. The filtrate was evaporated and subjected to flash column chromatography (1:12 methanol/methylene chloride) to give the title compound (313 mg, 59% yield). 1H-NMR (CD3OD, 300 MHz) δ 7.28–7.21 (m, 5H), 6.94–6.83 (m, 3H), 5.06–4.95 (m, 2H), 4.46–4.41 (m, 1H), 3.68 (s, 3H), 3.17–3.11 (m, 1H), 2.95–2.88 (m, 1H). LC/MS: tR=2.11 min, 370 (MH)+.

reactant | (R)-2-benzyloxycarbonylamino-3-(3,4-diamino-phenyl)-propionic acid methyl ester | 1.44 mmol, 600 mg | COC([C@@H](CC1=CC(=C(C=C1)N)N)NC(=O)OCC1=CC=CC=C1)=O | C18H21N3O4
reactant | triethylamine | 3.17 mmol, 320 mg | C(C)N(CC)CC | C6H15N
reactant | 1,1′-carbonyldiimidazole | 1.73 mmol, 280 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | tetrahydrofuran | 125 mL | O1CCCC1 | C4H8O
product | Benzyl (R)-1-(methoxycarbonyl)-2-(2,3-dihydro-2-oxo-1H-benzo[d]imidazol-6-yl)ethylcarbamate | 313 mg, 59% yield | COC(=O)[C@@H](CC=1C=CC2=C(NC(N2)=O)C1)NC(OCC1=CC=CC=C1)=O | C19H19N3O5
